US06043385
1.1. Preparation of (E)--(R)--N--[(1R,3R,20S)-1,3-Dihydroxy-17a,20a-dihomo-19-nor-9,10-seco-pregna-5,7-dien-21-yl]-4,4,4-trifluoro-3-hydroxy-3-methyl-butyramide
701 mg (2.06 mmol) of (S)-2-[(1R,4aR,5S,8aR)-5-(tert-Butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propylamine, 532 mg (1.5 eq.) of rac-3-trifluoromethyl-3-hydroxy-butyric acid, and 50 mg (0.2 eq.) of DMAP (N,N-dimethylaminopyridine) were dissolved in 20 ml of CH2Cl2. At 0° 680 mg (1.6 eq.) of DCC (dicyclohexylcarbodiimide) was added and the mixture allowed to react for 4 h at ambient temperature. The precipitated urea was filtered off and the filtrate evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=85/15) yielded in the less polar fractions 149 mg of unwanted 4,4,4-trifluoro-3-methyl-but-2-enoic acid {2-[5-(tert-butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propyl}-amide and in the more polar ones 811 mg of the title compound as colorless oil. Medium pressure chromatography of the latter (SiO2, hexane/AcOEt=90/10) gave in the less polar fractions 367 mg of the (R)-butyramide and in the more polar ones 314 mg of the (S)-isomer, both as white foam. For determination of abs. configuration see d] below.

reactant | (S)-2-[(1R,4aR,5S,8aR)-5-(tert-Butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propylamine | 2.06 mmol, 701 mg | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC[C@@H]([C@]2(CCC1)C)[C@@H](CN)C)(C)C | C20H41NOSi
reactant | rac-3-trifluoromethyl-3-hydroxy-butyric acid | 532 mg, 1.5 eq. | FC(C(CC(=O)O)(C)O)(F)F | C5H7F3O3
reactant | DCC | 680 mg, 1.6 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 4,4,4-trifluoro-3-methyl-but-2-enoic acid {2-[5-(tert-butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propyl}-amide | 149 mg | C(C)(C)(C)[Si](OC1C2CCCC(C2(CCC1)C)C(CNC(C=C(C(F)(F)F)C)=O)C)(C)C | C25H44F3NO2Si
